US05359083
1.66 g of dicyclohexylcarbodiimide are added at room temperature, with stirring and in a nitrogen atmosphere, to a mixture of 2.38 g of 4-(1-methyl-5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid [Example 1, Process Step a1)], 1.48 g of 2,4,5-trichlorophenol and 1.0 g of 4-dimethylaminopyridine in 140 ml of tetrahydrofuran. The reaction mixture is stirred at room temperature for 15 hours and filtered. The filtrate is concentrated by evaporation in vacuo at 50° and the residue is dissolved in 400 ml of chloroform, with heating. The organic phase is washed at room temperature with 50 ml of 2N hydrochloric acid and 50 ml of water and dried over magnesium sulfate, and the solution is concentrated to dryness at 40° under 11 torr. The residue is chromatographed on 350 g of silica gel (eluant: dichloromethane). The 3-methoxy-4-(1-methyl-5-nitroindol-3-ylmethyl)-benzoic acid 2,4,5-trichlorophenyl ester obtained in that manner is suspended in 50 ml of ether and isolated by filtration. Yield 67%. Yellow crystals of m.p. 235°-236°.

reactant | dicyclohexylcarbodiimide | 1.66 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(1-methyl-5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid | 2.38 g | CN1C=C(C2=CC(=CC=C12)[N+](=O)[O-])CC1=C(C=C(C(=O)O)C=C1)OC | C18H16N2O5
reactant | 2,4,5-trichlorophenol | 1.48 g | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
catalyst | 4-dimethylaminopyridine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 3-methoxy-4-(1-methyl-5-nitroindol-3-ylmethyl)-benzoic acid 2,4,5-trichlorophenyl ester | Yield 67% | ClC1=C(C=C(C(=C1)Cl)Cl)OC(C1=CC(=C(C=C1)CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C)OC)=O | C24H17Cl3N2O5
